US05157026
2-butyl-3-[(2'-tert-butoxycarbonylbiphen-4-yl)methyl]-2-butyl-3H-imidazo[4,5-c]pyridine was prepared according to the procedure described in Example 1, Part A from 2-butylimidazo[4,5-c]pyridine (220 mg, 1.25 mmol), tert-butyl 4'-bromomethylbiphenyl-2-carboxylate (414 mg, 1.19 mmol), and NaH (1.88 mmol).

reactant | 2-butylimidazo[4,5-c]pyridine | 1.25 mmol, 220 mg | C(CCC)C=1NC2=C(C=NC=C2)N1 | C10H13N3
reactant | tert-butyl 4'-bromomethylbiphenyl-2-carboxylate | 1.19 mmol, 414 mg | BrCC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C | C18H19BrO2
reactant | NaH | 1.88 mmol | [H-].[Na+]
product | 2-butyl-3-[(2'-tert-butoxycarbonylbiphen-4-yl)methyl]-2-butyl-3H-imidazo[4,5-c]pyridine | C(CCC)C1(NC2=C(C=NC=C2)N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC(C)(C)C)CCCC | C32H41N3O2
